US04129576
The condensation of pyrogallol and chloroacetic acid to form ω-chloro-2,3,4-trihydroxyacetophenone according to the invention is carried out using boron trifluoride as the condensing agent with a two-fold excess of chloroacetic acid. The reagents are mixed in any suitable manner and stirred together with moderate heating. When the reaction is complete the excess chloroacetic acid and boron trifluoride complex is removed by washing with water and filtering and, if desired, the product is recrystallized from water. Advantageously, the pyrogallol and chloroacetic acid are heated at a moderate temperature, say, about 65° C., until fusion is almost complete and the mixture is fluid. The boron trifluoride is then introduced under the surface at a moderate rate while the mixture is stirred and the temperature is maintained at about 65° C., and stirring and heating is continued until the reaction is complete, usually within about 3 hours. Higher or lower temperatures can be used, providing the temperature is high enough to give a fluid mix and not so high as to cause decomposition of the reagents or the product. Ordinarily, it will not be found necessary or advisable to heat above about 75° C. or to heat below about 60° C.

reactant | pyrogallol | C1(O)=C(O)C(O)=CC=C1 | C6H6O3
reactant | chloroacetic acid | ClCC(=O)O | C2H3ClO2
product | ω-chloro-2,3,4-trihydroxyacetophenone | C1=CC(=C(C(=C1C(=O)CCl)O)O)O | C8H7ClO4
